US06288096B1
1 g (3.3 mmole) 4-[2-(4-formylphenoxy)ethyl]phenyl methyl sulfone, 0.96 g (8.2 mmole) 2,4-thiazolidinedione, 5 drops of piperidine, 6 drops of acetic acid and toluene were refluxed with water separation in a Dean-Stark apparatus for 1 hour. The heat was removed and the yellow precipitate was filtered off. A slurry of the precipitate and dichloromethane:methanol (95:5) was refluxed. The product was collected by filtration giving 0.9 g (yield 67.6%) of 5-(4-[2-(4-methanesulfonylphenyl)ethoxy]benzylidene)thiazolidine-2,4-dione.

reactant | 4-[2-(4-formylphenoxy)ethyl]phenyl methyl sulfone | 3.3 mmole, 1 g | CS(=O)(=O)C1=CC=C(C=C1)CCOC1=CC=C(C=C1)C=O | C16H16O4S
reactant | 2,4-thiazolidinedione | 8.2 mmole, 0.96 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | piperidine | 5 drops | N1CCCCC1 | C5H11N
catalyst | acetic acid | 6 drops | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-(4-[2-(4-methanesulfonylphenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 0.9 g, yield 67.6% | CS(=O)(=O)C1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C19H17NO5S2
